US09371319B2
Preparation 138: 6-Bromo-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde
To a solution of 6-Bromo-2-(diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine (Preparation 137, 142 mg, 0.47 mmole) in THF (1.4 mL) and water (0.28 mL) was added tosic acid hydrate (134 mg, 0.705 mmole) and the reaction was stirred at 25° C. for 55 minutes. The reaction was partitioned between ethyl acetate (20 mL) and sodium bicarbonate (5 mL). The layers were separated and the aqueous layer again extracted with ethyl acetate (7 mL). The combined organic layers were washed with sodium bicarbonate and brine and concentrated in vacuo to afford the title compound (112 mg). 1H-NMR (CDCl3, 500 MHz): δ 7.37 (s, 1H), 7.62 (t, J=0.95 Hz, 1H), 8.88 (d, J=0.95 Hz, 1H), 9.32 (br s, 1H), 9.93 (s, 1H).

reactant | 6-Bromo-2-(diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine | 0.47 mmole, 142 mg | BrC1=CC2=C(C=N1)C=C(N2)C(OCC)OCC | C12H15BrN2O2
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
solvent | water | 0.28 mL | O | H2O
product | 6-Bromo-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 112 mg | BrC1=CC2=C(C=N1)C=C(N2)C=O | C8H5BrN2O
